US09238640B2
Preparation of 7-(2-(Benzyloxy)ethoxy)-5-methoxy-2-(pyridin-4-yl)quinazolin-4(3H)-one
To a solution of 2-benzyloxy-ethanol (2 mL) in dimethyl sulfoxide (3 mL) was added sodium hydride (0.30 g, 7.4 mmol) in portions, and the reaction mixture was stirred at room temperature for 45 minutes. To this mixture was added 7-fluoro-5-methoxy-2-pyridin-4-yl-3H-quinazolin-4-one (0.20 g, 0.74 mmol) and the reaction mixture was heated at 80° C. for 16 hours. Water was added, the mixture was acidified with acetic acid to pH approximately 4-5, and the precipitated solid was filtered off, to obtain a crude product, which was purified by preparative HPLC to obtain the title compound as a light yellow solid. Yield: 0.12 g (40%). MP 228.2-229.9° C. 1H NMR (400 MHz, DMSO-d6): δ12.29 (s, 1H), 8.77 (d, 2H), 8.08 (d, 2H), 7.36 (m, 5H), 6.82 (s, 1H), 6.62 (s, 1H), 4.58 (s, 2H), 4.32 (t, 2H), 3.87 (s, 3H), 3.83 (t, 2H). MS (ES+) m/z: 404.51 (M+1).

reactant | 2-benzyloxy-ethanol | 2 mL | C(C1=CC=CC=C1)OCCO | C9H12O2
reactant | sodium hydride | 7.4 mmol, 0.30 g | [H-].[Na+]
reactant | 7-fluoro-5-methoxy-2-pyridin-4-yl-3H-quinazolin-4-one | 0.74 mmol, 0.20 g | FC1=CC(=C2C(NC(=NC2=C1)C1=CC=NC=C1)=O)OC | C14H10FN3O2
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 3 mL | CS(=O)C | C2H6OS
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-(2-(Benzyloxy)ethoxy)-5-methoxy-2-(pyridin-4-yl)quinazolin-4(3H)-one | C(C1=CC=CC=C1)OCCOC1=CC(=C2C(NC(=NC2=C1)C1=CC=NC=C1)=O)OC | C23H21N3O4
